US08039021B2
Preparation of Ceftiofur Matrix
Ceftiofur-HCl (50 mg) and adipic acid dihydrazide (10 mg) were placed in a 1-ml syringe. This syringe was connected to a second syringe containing 1 ml of oxidized dextran (Mw, 500,000; 85 mg/ml; 1 ml). The contents of the two syringes were mixed by making 20 reciprocations. A sample (200 μl) of the reaction mixture was transferred to a 2 ml centrifuge tube for the release experiment in PBS buffer. The release profile matrix appears in Table 4 below:

reactant | Ceftiofur HCl | 50 mg | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O.Cl
reactant | adipic acid dihydrazide | 10 mg | C(CCCCC(=O)NN)(=O)NN | C6H14N4O2
product | Ceftiofur | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O | C19H17N5O7S3
